### PR TITLE
[Merged by Bors] - chore(GroupTheory/Congruence): small cleanups

### PR DESCRIPTION
**Pull request by eric-wieser**
Switches to `where` notation in a couple of places and removes a default `lt` field.

Also replaces uses of `.r` with `coeFn`, since the latter is declared simp-normal by this file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Congruence.lean [hunk 1]
```diff
@@ -447,49 +443,46 @@ theorem sInf_toSetoid (S : Set (Con M)) : (sInf S).toSetoid = sInf (toSetoid ''
...
+  inf_le_right _ _ := fun _ _ h => h.2
+  le_inf  _ _ _ hb hc := fun _ _ h => ⟨hb h, hc h⟩
+  top := { Setoid.completeLattice.top with mul' := by tauto }
+  le_top _ := fun _ _ _ => trivial
+  bot := { Setoid.completeLattice.bot with mul' := fun h1 h2 => h1 ▸ h2 ▸ rfl }
+  bot_le c := fun x y h => h ▸ c.refl x
 
 /-- The infimum of two congruence relations equals the infimum of the underlying binary
     operations. -/
 @[to_additive "The infimum of two additive congruence relations equals the infimum of the
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/GroupTheory/Congruence.lean]: I added that to the `sSup` one too

File: Mathlib/GroupTheory/Congruence.lean [hunk 2]
```diff
@@ -211,7 +207,7 @@ theorem ext_iff {c d : Con M} : (∀ x y, c x y ↔ d x y) ↔ c = d :=
 /-- Two congruence relations are equal iff their underlying binary relations are equal. -/
 @[to_additive "Two additive congruence relations are equal iff their underlying binary relations
 are equal."]
-theorem ext'_iff {c d : Con M} : c.r = d.r ↔ c = d :=
+theorem ext'_iff {c d : Con M} : ⇑c = ⇑d ↔ c = d :=
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Congruence.lean:210]: This should be `AddCon.coe_inj`.
```suggestion
theorem coe_inj {c d : Con M} : ⇑c = ⇑d ↔ c = d :=
```

File: Mathlib/GroupTheory/Congruence.lean [hunk 3]
```diff
@@ -445,51 +441,50 @@ theorem sInf_toSetoid (S : Set (Con M)) : (sInf S).toSetoid = sInf (toSetoid ''
...
   simp only [sInf_image, iInf_apply, iInf_Prop_eq]
   rfl
-#align con.Inf_def Con.sInf_def
-#align add_con.Inf_def AddCon.sInf_def
+#align con.Inf_def Con.coe_sInf
+#align add_con.Inf_def AddCon.coe_sInf
 
 @[to_additive]
 instance : PartialOrder (Con M) where
   le := (· ≤ ·)
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Congruence.lean:457]: Can't you skip this one as well? 
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
Much needed!

maintainer merge

**Review by Vierkantor — APPROVED** [review]
LGTM, thanks!

bors r+
